US08389524B2
7-{[(1-{[(1R)-3,8-Dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-1-yl]methyl}-4-piperidinyl)amino]methyl}-2,3-dihydro-1,4-benzodioxin-5-carbonitrile hydrochloride
A suspension of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride (for a preparation see Example 13(k) or 15(d)) (50 mg, 0.100 mmol) in chloroform (4 ml) and methanol (0.121 ml) at rt under nitrogen was treated with triethylamine (0.587 ml, 4.21 mmol) and stirred for 15 min (the suspension turned into a solution). 7-Formyl-2,3-dihydro-1,4-benzodioxin-5-carbonitrile (for a synthesis see WO06014580 Preparation 13 or WO2007122258, Example 31(d)) ((18.95 mg, 0.100 mmol) was then added and the reaction was stirred for 30 min. Sodium triacetoxyborohydride (63.7 mg, 0.301 mmol) was then added and the reaction was stirred for 1 h. LC-MS after 1 h showed some imine intermediate so more sodium triacetoxyborohydride (63.7 mg, 0.301 mmol) was added and the reaction stirred for 2 h. LCMS after this time still showed imine intermediate, More sodium triacetoxyborohydride (63.7 mg, 0.301 mmol) was added and the reaction left stirring overnight (16 h), LCMS after this time showed no starting material. Saturated NaHCO3 (10 mL) was added followed by 20% MeOH/DCM (20 ml) and the aqueous phase was extracted and then separated from the organic layer. The aqueous phase was extracted again with 20% MeOH/DCM (2×20 ml). The combined organic extracts were dried (NaSO4), filtered and evaporated to give crude product. The crude product was purified on a silica column (0-20% MeOH/DCM) to give the free base of the title compound (33 mg, 69.4%).

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=NC=3C=CC(N1C23)=O)=O
reactant | triethylamine | 4.21 mmol, 0.587 ml | C(C)N(CC)CC | C6H15N
reactant | 7-Formyl-2,3-dihydro-1,4-benzodioxin-5-carbonitrile | C(=O)C=1C=C(C2=C(OCCO2)C1)C#N | C10H7NO3
reactant | Sodium triacetoxyborohydride | 0.301 mmol, 63.7 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.301 mmol, 63.7 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.301 mmol, 63.7 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH DCM | 20 ml | CO.C(Cl)Cl
solvent | methanol | 0.121 ml | CO | CH4O
product | 7-{[(1-{[(1R)-3,8-Dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-1-yl]methyl}-4-piperidinyl)amino]methyl}-2,3-dihydro-1,4-benzodioxin-5-carbonitrile hydrochloride | 33 mg, 69.4% | Cl.O=C1N2C[C@H](N3C(C=CC(N=C1)=C32)=O)CN3CCC(CC3)NCC=3C=C(C2=C(OCCO2)C3)C#N | InChI=1S/C25H26N6O4.ClH/c26-11-17-9-16(10-21-24(17)35-8-7-34-21)12-27-18-3-5-29(6-4-18)14-19-15-30-23(33)13-28-20-1-2-22(32)31(19)25(20)30;/h1-2,9-10,13,18-19,27H,3-8,12,14-15H2;1H/t19-;/m1./s1
